* Common-source op-amp with resistive loads
Vdd vdd 0 DC 5
Vin_p inp 0 AC 0.5
Vin_n inn 0 AC -0.5
M1 outp inp tail 0 NMOS
M2 outn inn tail 0 NMOS
R1 vdd outp 20k
R2 vdd outn 20k
Itail tail 0 DC 200u
.model NMOS NMOS LEVEL=1 VTO=1 KP=1m
.op
.ac dec 100 10 100Meg
.end
